US07482349B2
Preparation of Ethyl 4-amino-3-bromobenzoate
A solution of bromine (7.0 mL, 137.3 mmol) in dichloromethane is added dropwise to a cold (−10° C.) solution of ethyl 4-aminobenzoate (22.0 g, 133.3 mmol) in dichloromethane. The reaction mixture is allowed to come to room temperature, stirred for 18 h and diluted with water. The organic phase is separated, washed twice with brine, dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (SiO2, 8/1 hexanes/EtOAc as eluent) to afford the title compound as a white solid, 28.6 g (88% yield), identified by HNMR and mass spectral analyses. MS m/e 242 (M−H)+; 1H NMR (400 MHz, DMSO-d6) δ 1.28 (t, J=7.01 Hz, 3H), 4.22 (q, J=7.16 Hz, 2H), 6.18 (brs, 2H), 6.81 (d, J=7.91 Hz, 1H), 7.65 (dd, J=8.54, 1.98 Hz 1H), 7.89 (d, J=1.83 Hz, 1H).

reactant | bromine | 137.3 mmol, 7.0 mL | BrBr | Br2
reactant | ethyl 4-aminobenzoate | 133.3 mmol, 22.0 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Ethyl 4-amino-3-bromobenzoate | 88% yield | NC1=C(C=C(C(=O)OCC)C=C1)Br | C9H10BrNO2
